US07402581B2
(b) {(2S)-2-(3,4-Dichlorophenyl)-4-[3-(4-fluoropiperidin-1-yl)azetidin-1-yl]butyl}methylamine dihydrochloride
The compound was synthesized in an analogous way to that of Method 3e but using tert-butyl {(2S)-2-(3,4-dichlorophenyl)-4-[3-(4-fluoropiperidin-1-yl)azetidin-1-yl]butyl}methylcarbamate rather than tert-butyl [2-(4-fluorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylcarbamate (yield, 100%). 1H NMR (500 MHz, CD3OD): 1.9-2s 2.4 (m, 6H), 2.7 (s, 3H), 3.1-5.1 (cm, 15H), 7.4 (d, 1H), 7.7 (m, 2H), LCMS: m/z 389 (M+1)+.

reactant | tert-butyl {(2S)-2-(3,4-dichlorophenyl)-4-[3-(4-fluoropiperidin-1-yl)azetidin-1-yl]butyl}methylcarbamate | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(OC(C)(C)C)=O)C)CCN1CC(C1)N1CCC(CC1)F | C24H36Cl2FN3O2
reactant | tert-butyl [2-(4-fluorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylcarbamate | FC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C)CCN1CC(C1)N1CCSCC1 | C23H36FN3O2S
product | {(2S)-2-(3,4-Dichlorophenyl)-4-[3-(4-fluoropiperidin-1-yl)azetidin-1-yl]butyl}methylamine dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1Cl)[C@@H](CNC)CCN1CC(C1)N1CCC(CC1)F | InChI=1S/C19H28Cl2FN3.2ClH/c1-23-11-15(14-2-3-18(20)19(21)10-14)4-7-24-12-17(13-24)25-8-5-16(22)6-9-25;;/h2-3,10,15-17,23H,4-9,11-13H2,1H3;2*1H/t15-;;/m1../s1
